* File: XOR2X1.pex.netlist
* Created: Wed Jan  2 19:04:36 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt XOR2X1  Y A B VDD GND
* 
MM11 a_13_43# B GND GND NMOS_VTL L=5e-08 W=5e-07
MM10 GND B a_35_6# GND NMOS_VTL L=5e-08 W=5e-07
MM9 a_35_6# A Y GND NMOS_VTL L=5e-08 W=5e-07
MM8 Y a_2_6# a_18_6# GND NMOS_VTL L=5e-08 W=5e-07
MM7 a_18_6# a_13_43# GND GND NMOS_VTL L=5e-08 W=5e-07
MM6 GND A a_2_6# GND NMOS_VTL L=5e-08 W=5e-07
MM5 a_13_43# B VDD VDD PMOS_VTL L=5e-08 W=1e-06
MM4 VDD B a_35_54# VDD PMOS_VTL L=5e-08 W=1e-06
MM3 a_35_54# a_2_6# Y VDD PMOS_VTL L=5e-08 W=1e-06
MM2 Y A a_18_54# VDD PMOS_VTL L=5e-08 W=1e-06
MM1 a_18_54# a_13_43# VDD VDD PMOS_VTL L=5e-08 W=1e-06
MM0 VDD A a_2_6# VDD PMOS_VTL L=5e-08 W=1e-06
c_7 B 0 0.268706f
c_12 Y 0 0.0282611f
c_19 a_13_43# 0 0.303557f
c_24 GND 0 0.149284f
c_29 VDD 0 0.167715f
c_36 A 0 0.288858f
c_43 a_2_6# 0 0.202235f
*
.include "XOR2X1.pex.netlist.XOR2X1.pxi"
*
.ends
*
*
